US07728030B2
N-((1S,2R)-2-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-methyl-2-phenylethyl)cyclopropanecarboxamide
To a stirred solution of (1S,2R)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-phenylpropan-2-amine (18 mg, 50 μmol) in dichloromethane (2 ml) was added triethylamine (100 μl), followed by cyclopropanecarbonyl chloride (15 mg, 150 μmol). The stirring was continued for 20 min at r.t., then the solvent was removed under reduced pressure, and the product purified by semi-preparative HPLC. Yield 20 mg (95%).

reactant | (1S,2R)-1-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-phenylpropan-2-amine | 50 μmol, 18 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@H]([C@@H](C)N)C1=CC=CC=C1 | C22H20FN3O
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 150 μmol, 15 mg | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-((1S,2R)-2-{[1-(4-fluorophenyl)-1H-indazol-5-yl]oxy}-1-methyl-2-phenylethyl)cyclopropanecarboxamide | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)NC(=O)C1CC1)C1=CC=CC=C1 | C26H24FN3O2
